US05565571
N-Carbobenzyloxy-4-(3-pyridyl)-3,5-difluoroaniline
4-(3-Pyridyl)-3,5-difluoroaniline (PREPARATION 2, 625 mg, 3.03 mmol), sodium bicarbonate (382 mg, 4.55 mmol, 1.5 eq) and dry THF (60 ml) are combined. The resulting mixture is placed under an atmosphere of nitrogen and benzylchloroformate (394 μl, 4.55 mmol, 1.5 eq) is added. The reaction is allowed to stir at 20-25°. After this time, the reaction is added to methylene chloride (150 ml) and washed with saturated sodium bicarbonate then brine, dried (sodium sulfate), filtered and concentrated under reduced pressure to a solid which is puried by silica gel chromatography (200 g of silica gel, eluted with acetonitrile/chloroform (3/97 - 11, 5/95 - 21), the title compound is recovered as a solid, mp 188°-190°; FTIR (neat) cm-1 3030, 1737, 1642, 1478, 1408, 1231, 1029, 723; MS CEI, m/z) 340, 296, 232, 205, 91, 79; NMR (CD3CL3) δ 8.59, 8.53-8.51, 7.95-7.92, 7.56-7.51, 7.44-7.31, 7.28 and 5.21.

reactant | 4-(3-Pyridyl)-3,5-difluoroaniline | 3.03 mmol, 625 mg | N1=CC(=CC=C1)C1=C(C=C(N)C=C1F)F | C11H8F2N2
reactant | sodium bicarbonate | 4.55 mmol, 382 mg, 1.5 eq | C([O-])(O)=O.[Na+]
reactant | THF | 60 ml | C1CCOC1 | C4H8O
reactant | benzylchloroformate | 4.55 mmol, 394 μl, 1.5 eq | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
product | N-Carbobenzyloxy-4-(3-pyridyl)-3,5-difluoroaniline | C(=O)(OCC1=CC=CC=C1)NC1=CC(=C(C(=C1)F)C=1C=NC=CC1)F | C19H14F2N2O2
